US07544812B2
2-(2-Fluoro-phenoxy)-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid methyl ester
The titled compound is prepared, according to the procedure of Example 1, Step A, using toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester (0.888 g, 2.12 mmole) and 2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methylester (0.645 g, 2.12 mmole) to produce an oil (0.95 g, 81%). Mass [EI+] 551 (M+H)+.

reactant | toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester | 2.12 mmole, 0.888 g | COC1=CC=C(CN2C(N(C(C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)C)=O)C=C1 | C21H26N2O5S
reactant | 2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methylester | 2.12 mmole, 0.645 g | COC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)F)=O | C17H17FO4
product | 2-(2-Fluoro-phenoxy)-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)(C)OC1=C(C=CC=C1)F)=O | C31H35FN2O6
